US04144347
To a stirred 80 g. sample of solid 3-bromobenzofuran is added a large excess of dinitrogen tetraoxide. The mixture liquifies within 5 minutes. After 2 hours, the mixture is triturated with ethanol and filtered to provide yellow crystals of 3-bromo-2-nitrobenzofuran. The product is identical to the product of Example 1 according to infrared spectral analysis.

reactant | 3-bromobenzofuran | BrC1=COC2=C1C=CC=C2 | C8H5BrO
reactant | dinitrogen tetraoxide | [N+](=O)([N+](=O)[O-])[O-] | N2O4
product | 3-bromo-2-nitrobenzofuran | BrC1=C(OC2=C1C=CC=C2)[N+](=O)[O-] | C8H4BrNO3
